US07420055B2
Synthesis of (6-Amino-3,4-difluoro-phenyl)-pyridin-3-yl-methanone
BCl3 (6.2 ml, 1M in DCM) was added dropwise to 1,2-difluoro-4-aminobenzene (0.5 g, 0.004 mol) in trichloroethylene (6.5 ml) at 0° C., the reaction mixture stirred for 15 min, then 3-Cyanopyridine (0.48 g, 0.005 mol) added and the solution warmed to room temperature and stirred for 30 min. The solution was then heated at 80-90° C. for 1 h. The resulting solution was refluxed at 160° C. for 4 hr, then stirred at room temprature over night, then 3N HCl was added to the reaction mixture and again refluxed at 110° C. for 1.5 h. The reaction mixture was cooled to RT and made basic (pH=12) with 6N NaOH. The reaction mixture was diluted with water and dichloromethane. The resulting two layers were separated and the aqueous layer was extracted with dichloromethane, dried over sodium sulfate and concentrated. The compound was purified by column chromatography on silica gel. 1H NMR (CDCl3): 6.29 (bs, 2H, NH2), 6.56 (m,1H), 7.25 (m,1H), 7.46 (m,1H), 7.93 (m,1H), 8.80 (m,1H), 8.85 (s, 1H). 13C NMR (CDCl3): 104.5, 104.7, 112.7, 121.3, 123.3, 135.1, 136.1, 142.5, 149.3, 149.5, 152.0, 153.8, 153.9, 156.3, 194.7. LC-MS m/e=235 (M+H)+. HPLC [c18 BDS 25 min column, flow=0.8 ml/min (70:30; ACN:0.1% TFA), rt=4.34 min].

reactant | BCl3 | 1M, 6.2 ml | B(Cl)(Cl)Cl | BCl3
reactant | 1,2-difluoro-4-aminobenzene | 0.004 mol, 0.5 g | FC1=C(C=C(C=C1)N)F | C6H5F2N
reactant | 3-Cyanopyridine | 0.005 mol, 0.48 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | HCl | 3N | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | trichloroethylene | 6.5 ml | ClC=C(Cl)Cl | C2HCl3
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6-Amino-3,4-difluoro-phenyl)-pyridin-3-yl-methanone | NC1=CC(=C(C=C1C(=O)C=1C=NC=CC1)F)F | C12H8F2N2O
